US07186845B2
A mixture of 4-(2-oxazolyl)-benzaldehyde (1 eq., 6.3 gm) and N-phenyl-hydroxyamine (1 eq., 3.9 gm) was refluxed in ethanol (100 ml) for 30 minutes and concentrated to a volume of 50 ml. An equal amount (50 ml) of water was added and the mixture was cooled in a refrigerator at 5° C. overnight. White crystals were obtained, which were isolated by filtration and dried, producing 6.7 gm of 4-(2-oxazolyl)-phenyl-N-phenylnitrone.

reactant | 4-(2-oxazolyl)-benzaldehyde | 6.3 gm, 1 eq. | O1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NO2
reactant | N-phenyl-hydroxyamine | 3.9 gm, 1 eq. | C1(=CC=CC=C1)NO | C6H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(2-oxazolyl)-phenyl-N-phenylnitrone | 6.7 gm | O1C(=NC=C1)C1=CC=C(C=C1)C=[N+]([O-])C1=CC=CC=C1 | C16H12N2O2
